US07569592B2
To 2-(1H-pyrazol-4-yl)pyridine (292 mg, 2 mmol), 1-napthaleneboronic acid (690 mg, 4 mmol), Cu(OAc)2 (547 mg, 3 mmol) and pyridine (0.32 mL, 4 mmol) in dichloromethane (4 mL) was added 0.5 g of 4 Å molecular sieves. The resulting reaction mixture was stirred at ambient temperature under atmospheric conditions for 48 h, whereupon it was filtered through Celite, washing with dichloromethane. The reaction mixture was concentrated on to silica gel in vacuo and purified by liquid chromatography onto silica gel eluting with EtOAc:hex (2:8 to 3:7) to afford 2-[1-(1-naphthyl)-1H-pyrazol-4-yl]pyridine as a white solid. 1H NMR (CD3Cl, 300 MHz) δ 8.63-8.65 (1H, m), 8.39 (1H, s), 8.34 (1H, s), 7.94-7.99 (3H, m), 7.73 (1H, ddd), 7.53-7.64 (5H, m), 7.18 (1H, m). MS (ESI) 272 (M+H)+

reactant | 2-(1H-pyrazol-4-yl)pyridine | 2 mmol, 292 mg | N1N=CC(=C1)C1=NC=CC=C1 | C8H7N3
reactant | 1-napthaleneboronic acid | 4 mmol, 690 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | pyridine | 4 mmol, 0.32 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
catalyst | Cu(OAc)2 | 3 mmol, 547 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 2-[1-(1-naphthyl)-1H-pyrazol-4-yl]pyridine | C1(=CC=CC2=CC=CC=C12)N1N=CC(=C1)C1=NC=CC=C1 | C18H13N3
